US06713464B1
An ice-cooled solution of 4-bromophenol (69.2 g) and cinnamoyl chloride (66.8 g) in dichloromethane (150 ml) was treated with triethylamine (40.6 g). After stirring for 18 hrs at room temperature the mixture was washed with water (250 ml), 1 M aqueous HCl, and dried over anhydrous sodium sulphate. Evaporation in vacuum left solid 3-phenylacrylic acid 4-bromophenyl ester (121.0 g, 99.8% yield), m.p. 113.3° C., tlc: (1) 0.83. NMR (CDCl3): 116.85, 118.87, 123.49, 128.38, 129.06, 130.90, 132.49, 134.02, 147.07, 149.84, 165.06.

reactant | 4-bromophenol | 69.2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | cinnamoyl chloride | 66.8 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | triethylamine | 40.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-phenylacrylic acid 4-bromophenyl ester | 121.0 g, 99.8% yield | BrC1=CC=C(C=C1)OC(C=CC1=CC=CC=C1)=O | C15H11BrO2
